US04997954
Bromine (29.6 g, 185.2 mmols) in dichloromethane (20 ml) was added to isochroman (25 g. 186.0 mmol) in dichloromethane (150 ml) over one hour in the presence of a strong light source at such a rate that the reaction temperature was about 35° C. The mixture was left for a further hour in the presence of the light source, keeping the temperature of the mixture below 40° C. The mixture was concentrated under reduced pressure to give a heavy yellow oil. This was then left on an oil bath at 80° C. under nitrogen for one and a half hours. The crude product was dissolved in dichloromethane (150 ml). Washed with water (100 ml). Saturated sodium bicarbonate (30 ml) was made up to 100 ml with water and this was used to wash the organic layer. This layer was again washed with water and then dried (Mg2SO4). Excess solvent was removed under reduced pressure to give a heavy yellow oil of 2(2' -bromoethyl)benzaldehyde 34.07 g (88 9%).

reactant | Bromine | 185.2 mmols, 29.6 g | BrBr | Br2
reactant | isochroman | 186.0 mmol, 25 g | C1OCCC2=CC=CC=C12 | C9H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2(2' -bromoethyl)benzaldehyde | 34.07 g, 9% | BrCCC1=C(C=O)C=CC=C1 | C9H9BrO
